US07109197B2
(3-Chloro-phenyl)-{4-[2-(2-methoxy-1-methyl-ethylamino)-pyridin-4-yl]-pyrimidin-2-yl}-amine
A mixture of (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine (10.0 g, 0.03 mol) and 2-amino-1-methoxypropane (14.0 g, 0.16 mol) in dioxane (75 ml) is heated in an autoclave at 195° C. for 12 hours. The reaction mixture is partitioned between ethyl acetate and water. The organic phase is separated, dried over magnesium sulfate, filtered and evaporated under reduced presssure. The residue is purified by silicagel chromatography to give the title compound, m.p. 143–144° C.

reactant | (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.03 mol, 10.0 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
reactant | 2-amino-1-methoxypropane | 0.16 mol, 14.0 g | NC(COC)C | C4H11NO
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | (3-Chloro-phenyl)-{4-[2-(2-methoxy-1-methyl-ethylamino)-pyridin-4-yl]-pyrimidin-2-yl}-amine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NC(COC)C | C19H20ClN5O
